US04997846
A mixture of 4-methoxy-3-pyrrolin-2-one (3 g), 1-octanol (7.4 ml) and methanesulfonic acid (0.2 g) were heated at 100° C. for 2 hours under reduced pressure (40 mbars). The product was chromatographed on silica gel, eluting with 2% methanol in methylene chloride, to give 4-octyloxy-3-pyrrolin-2-one.

reactant | 4-methoxy-3-pyrrolin-2-one | 3 g | COC1=CC(NC1)=O | C5H7NO2
reactant | methanesulfonic acid | 0.2 g | CS(=O)(=O)O | CH4O3S
reactant | 1-octanol | 7.4 ml | C(CCCCCCC)O | C8H18O
product | 4-octyloxy-3-pyrrolin-2-one | C(CCCCCCC)OC1=CC(NC1)=O | C12H21NO2
